US07262210B2
g. (6-Chloro-3-cyano-5-fluoro-pyridin-2-yl)-acetic acid
A mixture of (6-chloro-3-cyano-5-fluoro-pyridin-2-yl)-acetic acid methyl ester (9.36 g, 40.9 mmol), as prepared in the previous step, 4.0 M HCl (aq) (256 mL) and dioxane (51 mL) was vigorously stirred at 65° C. for 2 h. The homogeneous amber solution was then allowed to cool to rt, extracted with DCM (3×100 mL), dried (Na2SO4) and concentrated under reduced pressure at 45° C. to provide the title compound as a clear, dark amber oil (7.40 g, 84%). 1H-NMR (300 MHz, CDCl3) δ 7.75 (d, 1H), 4.11 (s, 2H).

reactant | (6-chloro-3-cyano-5-fluoro-pyridin-2-yl)-acetic acid methyl ester | 40.9 mmol, 9.36 g | COC(CC1=NC(=C(C=C1C#N)F)Cl)=O | C9H6ClFN2O2
reactant | HCl | 4.0 M, 256 mL | Cl | ClH
solvent | dioxane | 51 mL | O1CCOCC1 | C4H8O2
product | (6-Chloro-3-cyano-5-fluoro-pyridin-2-yl)-acetic acid | ClC1=C(C=C(C(=N1)CC(=O)O)C#N)F | C8H4ClFN2O2
